US07592358B2
20.1a. (4-bromo-2-methylphenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine
5.00 g (35.00 mmol) of 2-(4-methylpiperidin-1-yl)ethylamine was added under argon to a mixture of 10.39 g (35.00 mmol) of 4-bromo-1-iodo-2-methylbenzene, 0.33 g (1.75 mmol) of CuI, 30.0 g (141.00 mmol) of potassium phosphate, and 4.34 g (70.00 mmol) of ethylene glycol in 35 mL of isopropanol and the mixture was refluxed for 15 hours. The reaction mixture was evaporated down in vacuo and the residue taken up in EtOAc. The organic phase was washed with 5% aqueous ammonia, dried over magnesium sulfate, and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, EtOAc). Yield: 1.20 g (11% of theoretical); C15H23BrN2 (M=311.261); calc.: molpeak (M+H)+: 311/313 (Br); found: molpeak (M+H)+: 311/313 (Br); HPLC-MS: 4.24 minutes (method B).

reactant | 2-(4-methylpiperidin-1-yl)ethylamine | 35.00 mmol, 5.00 g | CC1CCN(CC1)CCN | C8H18N2
reactant | 4-bromo-1-iodo-2-methylbenzene | 35.00 mmol, 10.39 g | BrC1=CC(=C(C=C1)I)C | C7H6BrI
reactant | potassium phosphate | 141.00 mmol, 30.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethylene glycol | 70.00 mmol, 4.34 g | C(CO)O | C2H6O2
solvent | isopropanol | 35 mL | C(C)(C)O | C3H8O
catalyst | CuI | 1.75 mmol, 0.33 g | [Cu]I
product | (4-bromo-2-methylphenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine | BrC1=CC(=C(C=C1)NCCN1CCC(CC1)C)C | C15H23BrN2
